US05331084
Preparation of 2,3-epoxy-5,6,6-trifluoro-5-(trifluoromethyl)bicyclo[2.2.1]heptane
8.6 g (40 mmol) of the Diels-Alder reaction product of hexafluoropropene and cyclopentadiene are mixed in 20 ml of dry methylene chloride with 97 ml (80 mmol) of a 0.83 molar solution of peroxyacetic acid in methylene chloride, and the mixture is stirred for 96 hours at room temperature. Thelow-boiling components are then distilled off under reduced pressure. The residue is washed with two 20 ml portions of water, and the organic phase is dried with magnesium sulfate. The product distils at a pressure of 100 mbar and a boiling point of 60° to 65° C. In order to increase product purity, the distillation is repeated.

reactant | hexafluoropropene | FC(C(=C(F)F)F)(F)F | C3F6
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | peroxyacetic acid | C(C)(=O)OO | C2H4O3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,3-epoxy-5,6,6-trifluoro-5-(trifluoromethyl)bicyclo[2.2.1]heptane | O1C2C3C(C(C(C21)C3)(C(F)(F)F)F)(F)F | C8H6F6O
